Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Cipro / Neosporin 
(neo-bac-polym) / Macrobid / Tetracyclines / bacitracin / 
aspirin / Biaxin / Claritin / ampicillin
 
Attending: ___.
 
Chief Complaint:
s/p fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 ___ female w h/o HTN, urinary incontinence presents
to ED after a fall. She reports having slept "too late" at night
and was woken up early this morning in time for her breakfast at
her assisted living facility. She felt extremely tired and so
took awhile to get out of bed and subsequently fell onto her 
left
side. She was unable to get up and yelled for help but no one
heard her and was down all morning. At this time she is
complaining of left-sided back pain. Denies any head strike or
loss of consciousness. She reports pain to her back. She is 
unsure if she struck
her head. She is not anticoagulated. She denies any
preceding dizziness or lightheadedness. Denies any chest
pain or shortness of breath. No headache, neck pain at this 
time. CT
head, neck, c-spine were negative but she was found to have L
___ rib fx and T10 transverse proc fx. Trauma surgery was
consulted for trauma eval.

 
Past Medical History:
Past Medical History:
bladder incontinence, sciatica, macular degeneration, memory
impairment

Past Surgical History:
Melanoma removal

 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION
Temp: 97.8 HR: 97 BP: 141/64 Resp: 16 O(2)Sat: 99 Normal
Constitutional: Comfortable
HEENT: Normocephalic, atraumatic, Pupils equal, round and
reactive to light, Extraocular muscles intact
C-collar in place, midline tenderness
Chest: Clear to auscultation, tenderness to the left
posterior ribs
Cardiovascular: Normal first and second heart sounds,
Regular Rate and Rhythm
Abdominal: Soft, Nontender, Nondistended
Extr/Back: No cyanosis, clubbing or edema, no midline
tenderness, however patient reports pain in her lower back,
pelvis stable, full and painless range of motion of the hips
bilaterally
Skin: No rash, Warm and dry
Neuro: Speech fluent, sensory and motor intact

Discharge Physical Exam:
VS: 98.2, 147/77, 96, 18, 91-93% Ra 
Gen: Lying in bed in NAD
CV: HRR
Pulm: LS ctab. Old bruising to left scapula. Tender to palpation 
on left flank. Pulling 1200 on IS
Abd: soft, NT/ND
Ext: No edema, slight discoloration

 
Pertinent Results:
___ 05:36AM BLOOD WBC-7.6 RBC-4.04 Hgb-11.7 Hct-37.1 MCV-92 
MCH-29.0 MCHC-31.5* RDW-15.4 RDWSD-51.7* Plt ___
___ 05:35PM BLOOD WBC-9.3 RBC-4.45 Hgb-12.9 Hct-40.8 MCV-92 
MCH-29.0 MCHC-31.6* RDW-15.5 RDWSD-52.2* Plt ___
___ 05:36AM BLOOD Glucose-97 UreaN-30* Creat-0.9 Na-144 
K-4.3 Cl-107 HCO3-24 AnGap-13
___ 05:35PM BLOOD Glucose-110* UreaN-34* Creat-0.9 Na-145 
K-4.7 Cl-107 HCO3-23 AnGap-15
___ 05:36AM BLOOD Calcium-8.8 Phos-3.6 Mg-2.1
___ 05:35PM BLOOD Calcium-9.1 Phos-3.6 Mg-2.2

Radiology: 
CT c-spine ___:
1. No acute fracture traumatic malalignment.
2. Mild degenerative changes of the cervical spine as above.

CT head ___:
No acute intracranial process.

CT L-spine ___:
1. Partially imaged posterior left eleventh rib fracture. No
fractures of the lumbar spine.
2. Nonobstructive bilateral nephrolithiasis.

CT chest ___:
1. Left posterior rib fractures, involving the ninth, tenth,
eleventh ribs. Left T2 transverse process fracture of T10 also
noted.
2. Opacities at the lung bases, left greater than right, likely
atelectasis and sequelae of aspiration.
3. Indeterminate calcified lesion within the pancreatic body.
Clinically warranted, this lesion could be further evaluated 
with
an MRCP.
4. Cholelithiasis and renal cystic lesions partially visualized.

 
Brief Hospital Course:
___ year old female admitted to the Trauma service after a fall. 
Imaging revealed left sided rib fractures ___ and a T10 
transverse process fracture. The patient was hemodynamically 
stable. She was admitted for pain control, ___ evaluation, and 
monitoring of her respiratory status.  

Pain was well controlled. The patient voided without problem. 
Physical Therapy evaluated the patient and recommended rehab 
once medically cleared. During this hospitalization, the patient 
ambulated early and frequently with assist, was adherent with 
respiratory toilet and incentive spirometry, and actively 
participated in the plan of care. The patient received 
subcutaneous heparin and venodyne boots were used during this 
stay.
.
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating with ___, voiding without assistance, and pain 
was well controlled.  The patient was discharged to rehab. The 
patient received discharge teaching and follow-up instructions 
with understanding verbalized and agreement with the discharge 
plan.

 
Medications on Admission:
Lisinopril 2.5mg daily
Tylenol ___ PRN
Calcium carbonate 500mg PRN
GNP all day pain relief PRN
 
Discharge Medications:
 
1.  Acetaminophen 650 mg PO Q6H  
2.  Docusate Sodium 100 mg PO BID  
3.  Lidocaine 5% Patch 1 PTCH TD QAM  
4.  OxyCODONE (Immediate Release) 2.5-5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*5 Tablet Refills:*0 
5.  Polyethylene Glycol 17 g PO DAILY  
6.  Lisinopril 2.5 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
[] Left posterior rib fractures, ___
[] Left T2 transverse process fracture of T10 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to ___ after a fall. You were found to have 
left sided rib fractures. You were admitted for pain control and 
monitoring of your respiratory status. Physical Therapy 
evaluated you, and felt you would need rehab to regain your 
strength. You are now medically clear for discharge. 

* Your injury caused left sided rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___